US03932402
Benzonitrile (5.2 g, 0.05 mol) was added dropwise over a period of 100 sec to 20 ml (34 g, 0.23 mol) of stirred trifluoromethanesulfonic acid with the temperature being allowed to rise as high as 91°C. When the reaction mixture cooled to 25°C, the yellow solution was poured into 100 ml cold ethanol. The yellow color disappeared and a white flocculent precipitate formed. Recrystallization of this precipitate from 150 ml chloroform afforded 3.43 g (66 percent yield) of 2,4,6-triphenyl-s-triazine (white crystals, m.p. 235°-237°C) (Lit. m.p. 232°C, J. Chem. Soc., 1941, 278). The 3.43 g sample of product exhibited no nitrile bands in the infrared spectrum but the infrared spectral band characteristic of the triazine structure was very strong at 6.6μ.

reactant | Benzonitrile | 0.05 mol, 5.2 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | trifluoromethanesulfonic acid | 0.23 mol, 34 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4,6-triphenyl-s-triazine | 3.43 g, 66 percent yield | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H15N3
